US04080325
reacting tetraaminopyrimidinehydrochloride with dihydroxyacetone in the presence of air and water and at a pH in the range of 5.5±0.2 to give 2,4-diamino-6-hydroxymethylpteridine;

reactant | tetraaminopyrimidinehydrochloride | Cl.NC1=C(C(=NC(=N1)N)N)N
reactant | dihydroxyacetone | OC(C(C)=O)O | C3H6O3
solvent | water | O | H2O
product | 2,4-diamino-6-hydroxymethylpteridine | NC1=NC2=NC=C(N=C2C(=N1)N)CO | C7H8N6O
